US05317016
To a suspension of trans-4-hydroxy-L-proline (50 g) in a mixture of water (300 ml) and t-butanol (100 ml) are added aqueous sodium hydrogen carbonate (32.3 g), di-t-butyl dicarbonate (104 g) and dioxane (200 ml). The mixture is stirred at room temperature overnight. The organic solvent is removed and the resulting aqueous solution is layered with methyl ethyl ketone and ethyl acetate, and acidified with conc. hydrochloric acid (34.5 ml) under ice cooling. The organic layer is taken, washed with saturated brine, dried over sodium sulfate, and concentrated in vacuo. The residue is recrystallized from ethyl acetate-toluene to give trans-1-t-butoxycarbonyl-4-hydroxy-L-proline (82.9 g). Colorless crystals. Yield: 94%. mp. 126° to 128° C. NMR δ(CDCl3) ppm: 1.43, 1.46(2×s, 9H), 1.95 to 2.36(m, 2H), 3.36 to 3.6(m, 2H), 4.23 to 4.44(m, 2H). IR ν (CHCl3) cm-1 : 3360, 1735, 1656.

reactant | trans-4-hydroxy-L-proline | 50 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | sodium hydrogen carbonate | 32.3 g | C(O)([O-])=O.[Na+]
reactant | di-t-butyl dicarbonate | 104 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | trans-1-t-butoxycarbonyl-4-hydroxy-L-proline | 82.9 g, Yield: 94% | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
